US07897762B2
3-(2-chloro-4-fluoro-5-nitrophenyl)-7-(methoxy(methyl)amino)-1-methyl-3,4-dihydro pyrido[4,3-d]pyrimidin-2(1H)-one (1 g, 2.5 mmol), Pd/C (0.3 g) were combined in MeOH (30 mL) and hydrogenated (45 psi) at 50° C. for 4 days. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residual solid was washed with ethyl acetate and dried in vacuo to give 3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (0.6 g, 71% yield). 1H-NMR (400 MHz, DMSO-d6): δ 7.71 (s, 1 H), 7.26 (d, J==10.8 Hz, 1 H), 6.78 (d, J=8.8 Hz, 1 H), 6.41 (m, 1 H), 5.94 (s, 1 H), 5.43 (s, 2 H), 4.50 (d, J=13.6 Hz, 1 H), 4.40 (d, J=13.6 Hz, 1 H), 3.16 (s, 3 H), 2.76 (d, J=5.2 Hz, 3 H); MS (ESI) m/z: 336.2 [M+H]+.

reactant | 3-(2-chloro-4-fluoro-5-nitrophenyl)-7-(methoxy(methyl)amino)-1-methyl-3,4-dihydro pyrido[4,3-d]pyrimidin-2(1H)-one | 2.5 mmol, 1 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C2=C(C1)C=NC(=C2)N(C)OC)C)=O | C16H15ClFN5O4
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 3-(5-amino-2-chloro-4-fluorophenyl)-1-methyl-7-(methylamino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 0.6 g, 71% yield | NC=1C(=CC(=C(C1)N1C(N(C2=C(C1)C=NC(=C2)NC)C)=O)Cl)F | C15H15ClFN5O
